US06248755B1
Step A: 2-Ethyl-imidazo[1,2-a]pyridine
The title compound was prepared from 2-aminopyridine and 1-bromo-2-butanone, employng procedures analogous to those described in Example 235, Step A. 1H NMR (500 MHz, CDCl3): δ 1.34 (t, J=7.3 Hz, 3H), 2.82 (q, J=7.6Hz, 2H), 6.70 (t, J=6.6 Hz, 1H), 7.10 (m, 1H), 7.32 (s, 3H), 7.51 (d, J=8.9 Hz, 1H), 8.03 (dd, J=6.6, 0.9 Hz, 1H).

reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | 1-bromo-2-butanone | BrCC(CC)=O | C4H7BrO
product | 2-Ethyl-imidazo[1,2-a]pyridine | C(C)C=1N=C2N(C=CC=C2)C1 | C9H10N2
